US06441239B1
4-Chloromethyl-1-trifluoromethoxybenzene
200 g of trifluoromethoxybenzene and 48 g of paraformaldehyde were dissolved in 500 ml of methanol, and dry hydrogen chloride gas was introduced at 60° C. for 7 hours. The waste gases were, via a reflux condenser, passed into aqueous ammonia. The reaction mixture was then poured onto 1,000 g of ice and extracted twice with in each case 300 ml of methyl tert-butyl ether. The combined extracts were washed with 100 ml of water and then with 100 ml of sodium bicarbonate solution and subsequently concentrated. The residue was distilled at 18 hPa in a spinning band column. This gave 158.8 g of 4-chloromethyl-1-trifluoromethoxybenzene as a colorless liquid (65% of theory) of b.p. 71-74° C.

reactant | trifluoromethoxybenzene | 200 g | FC(OC1=CC=CC=C1)(F)F | C7H5F3O
reactant | paraformaldehyde | 48 g | C=O | CH2O
reactant | hydrogen chloride | Cl | ClH
reactant | ammonia | N | H3N
reactant | methanol | 500 ml | CO | CH4O
product | 4-Chloromethyl-1-trifluoromethoxybenzene | ClCC1=CC=C(C=C1)OC(F)(F)F | C8H6ClF3O
